US07449477B2
(2-Amino-ethyl)-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester
Add [3-(4-Nitro-phenyl)-propyl]-[2-(2,2,2-trifluoro-acetylamino)-ethyl]carbamic acid tert-butyl ester (16 g, 33 mmol), potassium carbonate (23 g, 170 mmol), methanol (100 mL) and water (45 mL) to a 500 mL flask. Heat to 50° C. for 1 hr. Cool the reaction and filter off any solids. Add dichloromethane and water, stir and separated the layers. Extract the aqueous layer with dichloromethane. Combine the organic layers, wash with brine, dry over MgSO4 and concentrate under reduced pressure to obtain the title compound as an oily residue. The title compound was used without purification. 1H NMR (CDCl3, 500.0 MHz): δ 8.13 (d, 2H, J=9 Hz), 7.32 (d, 2H, J=8.5 Hz), 3.24 (br m, 4H), 2.82 (br m, 2H), 2.69 (t, 2H, J=7.5 Hz), 1.87 (p, J=7.5 Hz), 1.48 (br s, 2H), 1.43 (s, 9H).

reactant | [3-(4-Nitro-phenyl)-propyl]-[2-(2,2,2-trifluoro-acetylamino)-ethyl]carbamic acid tert-butyl ester | 33 mmol, 16 g | C(C)(C)(C)OC(N(CCNC(C(F)(F)F)=O)CCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H24F3N3O5
reactant | potassium carbonate | 170 mmol, 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 100 mL | CO | CH4O
solvent | water | 45 mL | O | H2O
product | (2-Amino-ethyl)-[3-(4-nitro-phenyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCC1=CC=C(C=C1)[N+](=O)[O-])CCN)=O | C16H25N3O4
